US09303023B2
A microwave tube was charged with 2-(4-nitro-1H-pyrazol-1-yl)ethanamine (1.92 g, 5.52 mmol), NMP. (15 mL), 2-chloro-4,6-dimethoxypyrimidine (1.16 g, 6.62 mmol) and K2CO3 (4.19 g, 30.34 mmol). The resulting mixture was heated to 150° C. for 20 min in the microwave (no cooling). The reaction mixture was diluted with DCM and washed with water. The org. layer was separated and the aq. layer was extracted with DCM (2×) The combined organic layers were washed with brine, dried (MgSO4), filtered and the solvent was removed under reduced pressure. Purification was performed by FC (EtOAc/hept 6:4) to obtain 4,6-dimethoxy-N-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)pyrimidin-2-amine. LC-MS conditions A: tR=0.33 min, [M+H]+=no ionization.

reactant | 2-(4-nitro-1H-pyrazol-1-yl)ethanamine | 5.52 mmol, 1.92 g | [N+](=O)([O-])C=1C=NN(C1)CCN | C5H8N4O2
reactant | NMP | CN1CCCC1=O | C5H9NO
reactant | 2-chloro-4,6-dimethoxypyrimidine | 6.62 mmol, 1.16 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | K2CO3 | 30.34 mmol, 4.19 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4,6-dimethoxy-N-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)pyrimidin-2-amine | COC1=NC(=NC(=C1)OC)NCCN1N=CC(=C1)[N+](=O)[O-] | C11H14N6O4
